US07019026B1
To a solution of 4-hydroxyphthalic acid (0.25 g, 1.37 mmol) in anhydrous N,N-dimethylformamide (3 ml) under nitrogen was added sodium hydride (0.22 g, 5.48 mmol). The solution was stirred for 5 minutes and then methyl iodide (0.68 ml) was added and continued stirring for 3 hours. Several drops of water were added to quench the reaction and the mixture was concentrated in vacuo. The crude material was partitioned between ethyl acetate (40 ml) and water (10 ml). The layers were separated and the organic layer washed with brine (2×10 ml), dried (Na2SO4), filtered and the solvent evaporated in vacuo. The resulting oil was dissolved in methanol (8 ml) and 1N sodium hydroxide (4 ml) was added. The reaction was stirred at ambient temperature for 24 hours, after which LC-MS indicated only partial hydrolysis. The material was reconstituted in methanol (5 ml) and treated with of sodium hydroxide (0.12 g, 3.0 mmol) dissolved in water (1 ml). The reaction mixture was stirred for 48 hours, at which time a precipitate had formed. The mixture was acidified with 6 N hydrochloric acid until pH=1, causing the solution to become homogeneous. The reaction was concentrated in vacuo and the residue partitioned between ethyl acetate (30 ml) and 0.5N hydrochloric acid (10 ml). The layers were separated and the organic layer concentrated in vacuo to give 100 mg (51%) of 4-methoxy-phthalic acid as a solid.

reactant | 4-hydroxyphthalic acid | 1.37 mmol, 0.25 g | OC=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H6O5
reactant | sodium hydride | 5.48 mmol, 0.22 g | [H-].[Na+]
reactant | methyl iodide | 0.68 ml | CI | CH3I
reactant | sodium hydroxide | 3.0 mmol, 0.12 g | [OH-].[Na+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
catalyst | water | Several drops | O | H2O
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
product | 4-methoxy-phthalic acid | 100 mg, 51% | COC=1C=C(C(C(=O)O)=CC1)C(=O)O | C9H8O5
